US04250085
In a manner analogous to that described in Example 7 (A)(ii), from the monobenzylamine salt of (1R)-1-[(N-allyl-N-benzyloxycarbonyl-glycyl-L-alanyl-L-alanyl)amino]-ethylphosphonic acid [prepared as described in Example 20(B)(i)] there was obtained (1R)-1-(N-allyl-glycyl-L-alanyl-L-alanylamino)-ethylphosphonic acid of melting point 251°-253° C. (decomposition); [α]D20 =-110°; [α]36520 =-394° (c=1% in water).

reactant | monobenzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | (1R)-1-[(N-allyl-N-benzyloxycarbonyl-glycyl-L-alanyl-L-alanyl)amino]-ethylphosphonic acid | C(C=C)N(CC(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)N[C@@H](C)P(O)(O)=O)C(=O)OCC1=CC=CC=C1 | C21H31N4O8P
product | (1R)-1-(N-allyl-glycyl-L-alanyl-L-alanylamino)-ethylphosphonic acid | C(C=C)NCC(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)N[C@@H](C)P(O)(O)=O | C13H25N4O6P
